US09290451B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (4-carbamoyl-tetrahydro-pyran-4-yl)-amide
The title compound was synthesized in analogy to Example 1, using 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (Example 42 a) and 4-aminotetrahydro-2H-pyran-4-carboxamide (CAN 1183378-09-7) as starting materials, MS (EI): m/e=360.1 [M+H]+.

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid | C1(CC1)C=1C=CC(=NC1OCC1CC1)C(=O)O | C13H15NO3
reactant | 4-aminotetrahydro-2H-pyran-4-carboxamide | NC1(CCOCC1)C(=O)N | C6H12N2O2
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyridine-2-carboxylic acid (4-carbamoyl-tetrahydro-pyran-4-yl)-amide | C(N)(=O)C1(CCOCC1)NC(=O)C1=NC(=C(C=C1)C1CC1)OCC1CC1 | C19H25N3O4
